US07786104B2
12.2 2-(3-Azabicyclo[3.1.0]hex-3-yl)-5-aminopyridine (Vf)
The process is carried out according to the method used in example 5.2, using 0.2 g (0.97 mol) of 2-(3-azabicyclo[3.1.0]hex-3-yl)-5-nitropyridine, described in step 12.1, and 0.5 g of 10% palladium-on-charcoal. 0.1 g of the expected product is thus isolated, which product will be used as it is in the next step.

reactant | 2-(3-azabicyclo[3.1.0]hex-3-yl)-5-nitropyridine | 0.97 mol, 0.2 g | C12CN(CC2C1)C1=NC=C(C=C1)[N+](=O)[O-] | C10H11N3O2
catalyst | palladium-on-charcoal | 0.5 g | [Pd] | Pd
product | 2-(3-Azabicyclo[3.1.0]hex-3-yl)-5-aminopyridine | 0.1 g | C12CN(CC2C1)C1=NC=C(C=C1)N | C10H13N3
